US07671074B2
N-[amino-(naphthalin-2-yl-amino)-methylene]-4-methylbenzenesulfonamide (7)
The compound of Example 7 was prepared according to the accompanying synthesis procedure from 0.5 ml of N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-methylbenzene-sulfonamide solution (0.2 M, acetonitrile) with 19 mg of methanesulfonic acid and 0.5 ml of 2-naphthylamine solution (1.0 M, acetonitrile) and filed in a substance databank. Calculated mol. wt. 339.41; found mol. wt. (M+H) 340.3; 679.1 (Dimer)

reactant | N-[(3,5-dimethylpyrazol-1-yl)-iminomethyl]-4-methylbenzene-sulfonamide | 0.2 M, 0.5 ml | CC1=NN(C(=C1)C)C(NS(=O)(=O)C1=CC=C(C=C1)C)=N | C13H16N4O2S
reactant | methanesulfonic acid | 19 mg | CS(=O)(=O)O | CH4O3S
reactant | 2-naphthylamine | 1.0 M, 0.5 ml | C1=C(C=CC2=CC=CC=C12)N | C10H9N
product | N-[amino-(naphthalin-2-yl-amino)-methylene]-4-methylbenzenesulfonamide | NC(=NS(=O)(=O)C1=CC=C(C=C1)C)NC1=CC2=CC=CC=C2C=C1 | C18H17N3O2S
